US08008303B2
2′-Methyl-5′-[(morpholine-4-carbonyl)-amino]-biphenyl-4-carboxylic acid ethyl ester
A stirred solution of 5′-amino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester (520 mg) in dry THF (25 ml) containing triethylamine (0.57 ml) was treated with 4-morpholine-carbonyl chloride (0.26 ml). After 18 h. the mixture was partitioned between water and dichloromethane. The dried extracts were evaporated and the residue purified on silica gel. Elution with ethyl acetate:petrol 1:1 gave the title compound as a yellow oil (416 mg).

reactant | 5′-amino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester | 520 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)C | C16H17NO2
reactant | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | 4-morpholine-carbonyl chloride | 0.26 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2′-Methyl-5′-[(morpholine-4-carbonyl)-amino]-biphenyl-4-carboxylic acid ethyl ester | 416 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)N1CCOCC1)C | C21H24N2O4
